### PR TITLE
[Merged by Bors] - feat(Analysis/UpperHalfPlane, ModularForms): extend actions from GLPos to GL

### PR DESCRIPTION
**Pull request by loefflerd**
This extends the action of `GL(2, ℝ)⁺` on the upper half-plane, and the slash actions on modular forms, to actions of all of `GL (Fin 2) ℝ` (with elements of negative determinant acting as anti-holomorphic maps). 

This is mathematically extra information which we didn't have before; but the goal is also to make the modular forms code (hopefully) easier to work with, by avoiding the extra layer of coercions required by working with the subtype `GL(2, ℝ)⁺`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
OK, this should be ready for review now. I've tried to keep the diff as small as I could, and to add deprecations for removed declarations; the only (non-instance) declaration I had to get rid of entirely was `smul_slash_of_tower`, since there is no direct replacement now that slash actions are not necessarily required to be C-linear.

File: Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean [hunk 1]
```diff
@@ -41,113 +40,174 @@ scoped notation:1024 "↑ₘ[" R "]" A:1024 =>
...
+  simp only [smulAux, coe_mk, smulAux', map_div₀, σ_num, σ_denom, σ_mul]
+  generalize h : σ x (σ y z) = u
+  have hu : u.im ≠ 0 := by simpa only [← h, σ_im_ne_zero] using z.im_ne_zero
+  have hu' : (num y u / denom y u).im ≠ 0 := by
+    rw [moebius_im]
+    exact div_ne_zero (mul_ne_zero y.det_ne_zero hu) (normSq_denom_ne_zero _ hu)
+  rw [div_eq_div_iff (denom_ne_zero_of_im _ hu) (denom_ne_zero_of_im _ hu'),
+    denom, mul_div, div_add' _ _ _  (denom_ne_zero_of_im _ hu), mul_div]
+  conv_rhs => rw [num]
+  rw [mul_div, div_add' _ _ _  (denom_ne_zero_of_im _ hu), div_mul_eq_mul_div]
```
Comment (CBirkbeck) [inline Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean:164]:
```suggestion
    denom, mul_div, div_add' _ _ _ (denom_ne_zero_of_im _ hu), mul_div]
  conv_rhs => rw [num]
  rw [mul_div, div_add' _ _ _ (denom_ne_zero_of_im _ hu), div_mul_eq_mul_div]
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean [hunk 2]
```diff
@@ -41,113 +40,174 @@ scoped notation:1024 "↑ₘ[" R "]" A:1024 =>
...
     rw [smulAux'_im]
-    convert mul_pos ((mem_glpos _).1 g.prop)
-        (div_pos z.im_pos (Complex.normSq_pos.mpr (denom_ne_zero g z))) using 1
-    simp only [GeneralLinearGroup.val_det_apply]
-    ring
+    exact div_pos (mul_pos (abs_pos.mpr g.det.ne_zero) z.im_pos) (normSq_denom_pos _ z.im_ne_zero)
 
-theorem denom_cocycle (x y : GL(2, ℝ)⁺) (z : ℍ) :
-    denom (x * y) z = denom x (smulAux y z) * denom y z := by
+lemma denom_cocycle' (x y : GL (Fin 2) ℝ) (z : ℍ) :
```
Comment (CBirkbeck) [inline Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean:142]: having  `x,y` here (and below) for elements of GL and `g` elsewhere is a bit confusing. Maybe call them `f,g` or something?

File: Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean [hunk 3]
```diff
@@ -160,49 +220,69 @@ theorem c_mul_im_sq_le_normSq_denom : (g 1 0 * z.im) ^ 2 ≤ Complex.normSq (den
 @[simp]
 theorem neg_smul : -g • z = g • z := by
   ext1
-  change _ / _ = _ / _
-  field_simp [denom_ne_zero]
-  simp only [num, denom, Complex.ofReal_neg, neg_mul, GLPos.coe_neg_GL, Units.val_neg, neg_apply]
-  ring_nf
+  simp [coe_smul, (show num (-g) z = -(num g z) by simp [num]; ring),
```
Comment (CBirkbeck) [inline Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean:223]: `(show num (-g) z = -(num g z) by simp [num]` maybe this should be its own simp lemma, same with denom.

File: Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean [hunk 4]
```diff
@@ -41,113 +40,174 @@ scoped notation:1024 "↑ₘ[" R "]" A:1024 =>
...
 /-- Numerator of the formula for a fractional linear transformation -/
-def num (g : GL(2, ℝ)⁺) (z : ℍ) : ℂ := g 0 0 * z + g 0 1
+def num (g : GL (Fin 2) ℝ) (z : ℂ) : ℂ := g 0 0 * z + g 0 1
 
 /-- Denominator of the formula for a fractional linear transformation -/
-def denom (g : GL(2, ℝ)⁺) (z : ℍ) : ℂ := g 1 0 * z + g 1 1
+def denom (g : GL (Fin 2) ℝ) (z : ℂ) : ℂ := g 1 0 * z + g 1 1
 
-theorem linear_ne_zero (cd : Fin 2 → ℝ) (z : ℍ) (h : cd ≠ 0) : (cd 0 : ℂ) * z + cd 1 ≠ 0 := by
+theorem linear_ne_zero {cd : Fin 2 → ℝ} {z : ℂ} (hz : z.im ≠ 0) (h : cd ≠ 0) :
```
Comment (CBirkbeck) [inline Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean:48]: I wonder if we want a version of this for `(z : ℍ)`, since thats the case thats going to be used most often and would save you having to put `z.ne` (or whatever it is) every time.

File: Mathlib/NumberTheory/ModularForms/SlashActions.lean [hunk 5]
```diff
@@ -83,113 +74,117 @@ section
...
-  ring
-
-private theorem zero_slash (k : ℤ) (A : GL(2, ℝ)⁺) : (0 : ℍ → ℂ) ∣[k]A = 0 :=
-  funext fun _ => by simp only [slash, Pi.zero_apply, zero_mul]
-
-instance : SlashAction ℤ GL(2, ℝ)⁺ (ℍ → ℂ) ℂ where
+  ext1 τ
+  calc σ (A * B) (f ((A * B) • τ)) * ((A * B).det) ^ (k - 1) * denom (A * B) τ ^ (-k)
+  _ = σ B (σ A (f (A • B • τ))) * (A.det ^ (k - 1) * B.det ^ (k - 1)) *
+      (((σ B) (denom A ↑(B • τ) ^ (-k)))  * denom B τ ^ (-k)) := by
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/SlashActions.lean:82]:
```suggestion
      (((σ B) (denom A ↑(B • τ) ^ (-k))) * denom B τ ^ (-k)) := by
```

File: Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean [hunk 6]
```diff
@@ -217,27 +216,30 @@ instance (Γ : Subgroup SL(2, ℤ)) : IntCast (SlashInvariantForm Γ 0) where
 theorem coe_intCast (z : ℤ) : ⇑(z : SlashInvariantForm Γ 0) = z := rfl
 
 /-- Translating a `SlashInvariantForm` by `SL(2, ℤ)`, to obtain a new `SlashInvariantForm`. -/
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean:218]:
```suggestion
/-- Translating a `SlashInvariantForm` by `g : GL (Fin 2) ℝ`, to obtain a new 
`SlashInvariantForm` now of level `SL(2, ℤ) ∩ g⁻¹ Γ g`. -/
```

Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean:218]: Maybe double check I got that right

**Review by CBirkbeck — COMMENTED** [review]
Thanks for doing this, it looks good! Only minor comments from me.

**Comment by loefflerd** [comment]
Thanks for the review! I have made all the changes you suggested.

**Comment by CBirkbeck** [comment]
LGTM! thanks

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 7]
```diff
@@ -199,11 +202,18 @@ def toGL : Matrix.SpecialLinearGroup n R →* Matrix.GeneralLinearGroup n R wher
 instance hasCoeToGeneralLinearGroup : Coe (SpecialLinearGroup n R) (GL n R) :=
   ⟨toGL⟩
 
+@[simp] lemma toGL_injective :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:205]: Can you add a `toGL_inj` version?

File: Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean [hunk 8]
```diff
@@ -160,49 +238,67 @@ theorem c_mul_im_sq_le_normSq_denom : (g 1 0 * z.im) ^ 2 ≤ Complex.normSq (den
...
+  MulAction.compHom ℍ <| SpecialLinearGroup.toGL.comp <| map (algebraMap R ℝ)
+
+theorem coe_specialLinearGroup_apply {R : Type*} [CommRing R] [Algebra R ℝ] (g : SL(2, R)) (z : ℍ) :
+    ↑(g • z) =
+      (((algebraMap R ℝ (g 0 0) : ℂ) * z + (algebraMap R ℝ (g 0 1) : ℂ)) /
+      ((algebraMap R ℝ (g 1 0) : ℂ) * z + (algebraMap R ℝ (g 1 1) : ℂ))) := by
+  rw [MulAction.compHom_smul_def, coe_smul_of_det_pos (by simp)]
+  rfl
+
+-- Porting note: in the statement, we used to have coercions `↑· : ℝ`
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Complex/UpperHalfPlane/MoebiusAction.lean:258]: I think we can remove this porting note.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
